US04292245
3"-Phenyldispiro[1,3-dioxolane-2,1'-cyclohexane-4,1"(3"H)-isobenzofuran]
To a cooled (-50° C.) stirred solution of 27.7 g of 2-bromobenzhydryl methyl ether in 80 ml of dry tetrahydrofuran is added dropwise under nitrogen 60 ml of 2.4 M n-butyllithium in hexane. The mixture is stirred for 2 hours and a solution of 15.9 g of 1,4-dioxaspiro[4.5]decan-8-one in 50 ml of dry tetrahydrofuran is added dropwise, maintaining the temperature at -40° to -30° C. The mixture is stirred overnight at -70° to +10° C., diluted with 100 ml of water and extracted with 100 ml of dichloromethane. The organic phase is washed with water (2×50 ml), dried over anhydrous sodium sulfate and concentrated in vacuo. A solution of the residue in 400 ml of ethanol is stirred with 50 ml of hydrogen bromide/ether at room temperature for 3 hours. The solvent is removed under reduced pressure and the remaining oil crystallizes from 100 ml of methanol to give 39.6% of product, mp 130°-132° C.

reactant | 2-bromobenzhydryl methyl ether | 27.7 g | COC(C1=C(C=CC=C1)Br)C1=CC=CC=C1 | C14H13BrO
reactant | n-butyllithium | 2.4 M | C(CCC)[Li]
reactant | 1,4-dioxaspiro[4.5]decan-8-one | 15.9 g | O1CCOC12CCC(CC2)=O | C8H12O3
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 3"-Phenyldispiro[1,3-dioxolane-2,1'-cyclohexane-4,1"(3"H)-isobenzofuran] | 39.6% | C1(=CC=CC=C1)C1OC2(C3=CC=CC=C13)OC1(CCCCC1)OC2 | C21H22O3
